US09212150B2
Preparation of (E and Z)-Methyl 4-(chloro(2-(4-(trifluoromethoxy)phenyl)hydrazono)methyl)benzoate
To a magnetically stirred solution of N-chlorosuccinimide (0.59 g, 4.43 mmoL) in CH2Cl2 (8 mL) at 0° C. was added dimethyl sulfide (0.85 mL, 8.87 mmoL) and the reaction mixture was stirred for 15 minutes (min) and then cooled to −78° C. To this solution was added (E)-methyl 4-((2-(4-(trifluoromethoxy)-phenyl)hydrazono) methyl)benzoate dissolved in 8 mL of CH2Cl2 and the reaction mixture was stirred at this temperature for 1 hour (h), warmed to room temperature and stirred for 2 h. The solution was concentrated under reduced pressure. The residue was dissolved in CH2Cl2 (15 mL) and added to a silica gel (SiO2) loading cartridge and purified via flash column chromatography (Gradient EtOAc/hexanes). The title compound was obtained as a yellow solid as a mixture of E and Z isomers: mp 159-162° C.; 1H NMR (400 MHz, CDCl3) δ 8.18 (s, 1H), 8.07 (d, J=8.8 Hz, 2H), 7.98 (d, J=8.8 Hz, 2H), 7.20 (s, 4H), 3.95 (s, 3H); 19F NMR (376 MHz, CDCl3) δ−58.32; ESIMS m/z 372 ([M+H])+.

reactant | N-chlorosuccinimide | 0.59 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | dimethyl sulfide | 0.85 mL | CSC | C2H6S
reactant | (E)-methyl 4-((2-(4-(trifluoromethoxy)-phenyl)hydrazono) methyl)benzoate | FC(OC1=CC=C(C=C1)N\N=C\C1=CC=C(C(=O)OC)C=C1)(F)F | C16H13F3N2O3
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
product | Methyl 4-(chloro(2-(4-(trifluoromethoxy)phenyl)hydrazono)methyl)benzoate | ClC(C1=CC=C(C(=O)OC)C=C1)=NNC1=CC=C(C=C1)OC(F)(F)F | C16H12ClF3N2O3
